US08071768B2
a. 4-[7-(2-Hydroxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
KOtBu (1.17 g, 10.4 mmol) was added to ethylene glycol (10 mL, 179 mmol) to provide a homogeneous solution. 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (2.61 g, 7.89 mmol), as prepared in Example 65b, was added, and the opaque white slurry was stirred at rt for 3.5 hr. DMSO (5 mL) was then added, and the mixture stirred at 110° C. for 20 min at which point it became a homogeneous solution. The reaction was then stirred at rt overnight, at which point it became a translucent white slurry. The mixture was then diluted with 0.1M NaHCO3 and extracted with EtOAc (2×50 mL). The combined organic layers were washed with 0.1M NaHCO3 (1×100 mL), dried (Na2SO4), concentrated, and dissolved in ˜15 mL toluene. The title compound crystallized upon standing at rt, was filtered, and the crystalline filter cake washed with toluene (1×10 mL). The filter cake was dried under high vacuum at 100° C. to afford the title compound as a white powder (2.38 g, 81%). LC/MS (ESI): calc mass 373.2, found 374.2.

reactant | KOtBu | 10.4 mmol, 1.17 g | CC(C)(C)[O-].[K+]
reactant | ethylene glycol | 179 mmol, 10 mL | C(CO)O | C2H6O2
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 7.89 mmol, 2.61 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | NaHCO3 | 0.1M | C(=O)(O)[O-].[Na+]
product | 4-[7-(2-Hydroxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 2.38 g, 81% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCO | C20H27N3O4
